US06274536B1
3-Chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-1-methoxy-[1H]-pyridin-2-one
0.20 g of 3-chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-1-hydroxy-[1H]-pyridin-2-one (Example P32) is introduced into 2 ml of N-methylpyrrolidone (NMP) at 22° C. and 0.16 g of anhydrous potassium carbonate is added. With stirring, 0.10 g of methyl iodide in 0.5 ml of NMP is then added dropwise. The reaction mixture is stirred for 2 hours at 22° C. and then partitioned between 20 ml of water and diethyl ether. The separated ethereal phase is washed with brine, dried over sodium sulfate, filtered and concentrated to dryness by evaporation in vacuo. 0.13 g of the desired crude product is obtained in the form of a yellow oil which, after purification by means of flash chromatography (silica gel; eluant: n-hexane/ethyl acetate 1/1 (v/v)), yields 0.08 g of pure product in the form of a colourless oil.

reactant | 3-chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-1-hydroxy-[1H]-pyridin-2-one | 0.20 g | ClC=1C(N(C(=C(C1)F)C1=NN(C(=C1Cl)OC(F)F)C)O)=O | C10H6Cl2F3N3O3
reactant | potassium carbonate | 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.10 g | CI | CH3I
solvent | NMP | 0.5 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | 3-Chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-1-methoxy-[1H]-pyridin-2-one | 0.13 g | ClC=1C(N(C(=C(C1)F)C1=NN(C(=C1Cl)OC(F)F)C)OC)=O | C11H8Cl2F3N3O3
